US08133910B2
A solution of 4-allyloxy-3,5-dimethyl-benzoic acid N′-(5-isobutyl-thiophene-2-carbonyl)-hydrazide (1.40 g, 3.62 mmol) and Burgess reagent (1.12 g, 4.71 mmol) in THF (15 mL) is stirred at 110° C. for 3 min under microwave irradiation. The mixture is diluted with diethyl ether, washed with water, dried over MgSO4, filtered and evaporated. The crude product is purified by CC on silica gel eluting with heptane:EA 9:1 to give 2-(4-allyloxy-3,5-dimethyl-phenyl)-5-(5-isobutyl-thiophen-2-yl)-[1,3,4]oxadiazole (1.02 g) as a colourless oil; LC-MS: tR=1.21 min, [M+1]+=369.15.

reactant | 4-allyloxy-3,5-dimethyl-benzoic acid N′-(5-isobutyl-thiophene-2-carbonyl)-hydrazide | 3.62 mmol, 1.40 g | C(C(C)C)C1=CC=C(S1)C(=O)NNC(C1=CC(=C(C(=C1)C)OCC=C)C)=O | C21H26N2O3S
reactant | Burgess reagent | 4.71 mmol, 1.12 g | CC[N+](CC)(CC)S(=O)(=O)N=C([O-])OC | C8H18N2O4S
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-(4-allyloxy-3,5-dimethyl-phenyl)-5-(5-isobutyl-thiophen-2-yl)-[1,3,4]oxadiazole | 1.02 g | C(C=C)OC1=C(C=C(C=C1C)C=1OC(=NN1)C=1SC(=CC1)CC(C)C)C | C21H24N2O2S
